US05703249
4-Methylene-9-ethyl-9-methyl-3,5,8, 10-tetraoxabicyclo [5.3.0]decane was prepared in a similar way to 4-methylene-9,9-dimethyl-3,5,8, 10-tetraoxabicyclo [5.3.0]decane starting from 142.3 mmol (40 g) of 4-bromomethyl-9-ethyl-9-methyl-3,5,8,10-tetraoxabicyclo [5.3.0]decane, fractional distillation giving 23 g (89% yield) from 53° to 56° C. (0.2 mbar).

reactant | 4-methylene-9,9-dimethyl-3,5,8, 10-tetraoxabicyclo [5.3.0]decane | C=C1OCC2OC(OC2CO1)(C)C | C9H14O4
reactant | 4-bromomethyl-9-ethyl-9-methyl-3,5,8,10-tetraoxabicyclo [5.3.0]decane | 142.3 mmol, 40 g | BrCC1OCC2OC(OC2CO1)(C)CC | C10H17BrO4
product | 4-Methylene-9-ethyl-9-methyl-3,5,8, 10-tetraoxabicyclo [5.3.0]decane | 89% yield | C=C1OCC2OC(OC2CO1)(C)CC | C10H16O4
